US07491722B2
5-Acetyl-2-ethyl-6-phenyl-4-(pyridin-3-ylamino)pyridazin-3(2H)-one
To a stirred solution of 200 mg (0.7 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in ethanol (10 mL), 3-aminopyridine (0.098 mg, 1.04 mmol) was added portionwise. The resulting mixture was stirred at room temperature for five hours. The solvent was evaporated and the residue purified by column chromatography (silica gel, dichloromethane/methanol 97:3) to yield the title compound (60 mg, 26% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.7 mmol, 200 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 3-aminopyridine | 1.04 mmol, 0.098 mg | NC=1C=NC=CC1 | C5H6N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-6-phenyl-4-(pyridin-3-ylamino)pyridazin-3(2H)-one | 60 mg, 26% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC=1C=NC=CC1 | C19H18N4O2
